US08633189B2
4-[2-(5-Methyl-2-nitro-phenyl)ethyl]morpholine (150 mg, 0.599 mmol) and Pd (10%, wet) (128 mg, 0.0599 mmol) were brought up in methanol (5 mL) under H2 atmosphere and stirred vigorously for 1 h at 40° C. The reaction was filtered and concentrated in vacuo to provide 4-methyl-2-(2-morpholinoethyl)aniline (110 mg, 0.499 mmol, 83%) as an amber oil. LC/MS m/z 221.2 [M+H]+. 1H NMR (400.0 MHz, DMSO-d6) δ 6.72-6.68 (m, 2H), 6.51 (d, J=7.9 Hz, 1H), 4.64 (s, 2H), 3.58 (t, J=4.6 Hz, 4H), 2.57-2.53 (m, 2H), 2.44-2.40 (m, 6H), 2.11 (s, 3H).

reactant | 4-[2-(5-Methyl-2-nitro-phenyl)ethyl]morpholine | 0.599 mmol, 150 mg | CC=1C=CC(=C(C1)CCN1CCOCC1)[N+](=O)[O-] | C13H18N2O3
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd | 0.0599 mmol, 128 mg | [Pd] | Pd
product | 4-methyl-2-(2-morpholinoethyl)aniline | 0.499 mmol, 110 mg, 83% | CC1=CC(=C(N)C=C1)CCN1CCOCC1 | C13H20N2O
